US07420083B2
To a solution of 4-tert-butyl-benzaldehyde O-[3-(4-formyl-phenoxy)-propyl]-oxime (1.303 g, 3.84 mmol) in methanol (30 mL) was added sodium borohydride (0.201 g, 5.31 mmol) and the reaction was allowed to stir for 20 minutes. It was then poured slowly into brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate and concentrated in vacuo to give 4-tert-butyl-benzaldehyde O-[3-(4-hydroxymethyl-phenoxy)-propyl]-oxime which was used without further purification. To a solution of 4-tert-butyl-benzaldehyde O-[3-(4-hydroxymethyl-phenoxy)-propyl]-oxime in methylene chloride (30 mL) was added phosphorus tribromide (0.400 mL, 4.25 mmol) and the reaction was stirred at room temperature for 30 minutes. It was then poured slowly over ice and extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate and concentrated in vacuo to give 4-tert-butyl-benzaldehyde O-[3-(4-bromomethyl-phenoxy)-propyl]-oxime (˜0.8 g) which was used without further purification. To a solution of 4-tert-butyl-benzaldehyde O-[3-(4-bromomethyl-phenoxy)-propyl]-oxime (−0.8 g) in tetrahydrofuran (25 mL) was added tetrabutylammonium cyanide (0.650 g, 2.42 mmol) and the reaction was allowed to stir at room temperature overnight. It was then poured into brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (10/90 to 15/85) to give {4-[3-(4-tert-butyl-benzylideneaminooxy)-propoxy]-phenyl}-acetonitrile (0.607 g, 45% over 3 steps) as a colorless oil. 1H NMR (300 MHz, CDCl3); δ 8.08 (s, 1H), 7.52 (d, 2H), 7.40 (d, 2H), 7.22 (d, 2H), 6.92 (d, 2H), 4.35 (t, 2H), 4.10 (t, 2H), 3.68 (s, 2H), 2.21 (m, 2H), 1.34 (s, 9H).

reactant | 4-tert-butyl-benzaldehyde O-[3-(4-hydroxymethyl-phenoxy)-propyl]-oxime | OCC1=CC=C(OCCCON=CC2=CC=C(C=C2)C(C)(C)C)C=C1 | C21H27NO3
reactant | phosphorus tribromide | 4.25 mmol, 0.400 mL | P(Br)(Br)Br | Br3P
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-tert-butyl-benzaldehyde O-[3-(4-bromomethyl-phenoxy)-propyl]-oxime | ˜0.8 g | BrCC1=CC=C(OCCCON=CC2=CC=C(C=C2)C(C)(C)C)C=C1 | C21H26BrNO2
